US05599814
d. 7-Bromo-5-ethyl-2H-3,1-benzoxazine-2,4(1H)-dione
A stirred solution of 6-bromo-4-ethyl-1H-indole-2,3-dione (2.64 g, 10.4 mM) and the hexahydrate magnesium salt of monoperoxyphthalic acid (80% pure, 3.54 g, 5.73 mM) in glacial acetic acid (30 mL) was stirred at 60° C. for 1 hr during which time a precipitate formed. The cooled reaction mixture was then poured into cold water and the resulting mixture was filtered to separate (2.04 g, 73%) the title compound as a tan solid. Recrystallization of a portion of this material from ethyl acetate/hexane provided an analytical sample of the title compound as off white crystals, mp 208.5°-210.5° C.; MS(CI): 270 (M+H).

reactant | 6-bromo-4-ethyl-1H-indole-2,3-dione | 10.4 mM, 2.64 g | BrC1=CC(=C2C(C(NC2=C1)=O)=O)CC | C10H8BrNO2
reactant | monoperoxyphthalic acid | 5.73 mM, 3.54 g | C1=CC(=C(C(=C1)OO)C(=O)O)C(=O)O | C8H6O6
reactant | water | O | H2O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 7-Bromo-5-ethyl-2H-3,1-benzoxazine-2,4(1H)-dione | BrC1=CC2=C(C(OC(N2)=O)=O)C(=C1)CC | C10H8BrNO3
